US04808609
0.5 ml of 38% potassium hydroxide solution was added with stirring under an inert atmosphere at 30° C. to a mixture of 0.132 g of indole-4-carboxaldehyde, 0.1 ml of 2-hydroxy-acetophenone and 0.189 g of triethylbenzylammonium in 2 ml of ethanol and after stirring at 30° C. for 23 hours, the mixture was diluted with water and extracted with ethyl acetate. The organic phase was washed with water, dried and evaporated to dryness under reduced pressure. The residue was chromatographed over silica and eluted with methylene chloride to obtain 159 mg of 1-(2-hydroxyphenyl)-3-(1H-indol-4-yl)-2-propen-1-one melting 164° C.

reactant | potassium hydroxide | 0.5 ml | [OH-].[K+]
reactant | indole-4-carboxaldehyde | 0.132 g | N1C=CC=2C(=CC=CC12)C=O | C9H7NO
reactant | 2-hydroxy-acetophenone | 0.1 ml | OCC(=O)C1=CC=CC=C1 | C8H8O2
reactant | triethylbenzylammonium | 0.189 g | C(C)[N+](CC1=CC=CC=C1)(CC)CC
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 1-(2-hydroxyphenyl)-3-(1H-indol-4-yl)-2-propen-1-one | 159 mg | OC1=C(C=CC=C1)C(C=CC1=C2C=CNC2=CC=C1)=O | C17H13NO2
